US05292760
A stirred solution of 5.79 g of 2-amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine in 400 ml of tetrahydrofuran was treated dropwise under nitrogen with 90 ml of a 1M solution of borane in tetrahydrofuran. The solution was stirred overnight at room temperature and then quenched with 60 ml of a 10% sodium hydroxide solution. The aqueous mixture was extracted with dichloromethane (2×100 ml), dried over anhydrous sodium sulfate, filtered and concentrated. The concentrate was treated with 15 ml of glacial acetic acid and 35 ml of concentrated hydrochloric acid. After stirring at room temperature overnight, the solution was decanted over 200 g of ice, basified with 20 ml of 50% aqueous sodium hydroxide, and extracted with dichloromethane (3×100 ml). The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated. Purification was accomplished by means of HPLC (Water's Associates Prep LC/System 500, silica gel, elution with methanol). Concentration of the appropriate fraction afforded a solid which was recrystallized from diethyl ether to afford 3.7 g of 2-amino-N,N-dimethyl-α-(3-methyl-2-thienyl)benzenethanamine, mp 75°-77° C.

reactant | 2-amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 5.79 g | NC1=C(C=CC=C1)CC(N(C)C=O)C=1SC=CC1C | C15H18N2OS
reactant | borane | B | BH3
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-amino-N,N-dimethyl-α-(3-methyl-2-thienyl)benzenethanamine | 3.7 g | NC1=C(C=CC=C1)CC(N(C)C)C=1SC=CC1C | C15H20N2S
